US04996206
A mixture of 1.0 g of methyl 4-(4-hydroxy-5-pivaloyloxymethyl-6-methylpyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoate in 250 mL of 50% methanol in methylyne chloride and 0.8 g of 3% palladium-on-carbon is hydrogenated under reduced pressure. The solid is collected and there is obtained methyl 4-[2-(4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoate.

reactant | methyl 4-(4-hydroxy-5-pivaloyloxymethyl-6-methylpyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoate | 1.0 g | OC1=C2C(N=CN1C#CC1=CC=C(C(=O)OC)C=C1)=NC(=C2COC(C(C)(C)C)=O)C | C23H23N3O5
solvent | methanol | 250 mL | CO | CH4O
solvent | chloride | [Cl-]
catalyst | palladium-on-carbon | 0.8 g | [Pd] | Pd
product | methyl 4-[2-(4-hydroxy-6-methylpyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoate | OC1=C2C(N=CN1CCC1=CC=C(C(=O)OC)C=C1)=NC(=C2)C | C17H17N3O3
